US07662581B1
Synthesis of N1-Benzyl-4-bromo-benzene-1,2-diamine
To a solution of benzyl-(4-bromo-2-nitro-phenyl)-amine (276 mg, 0.9 mmol) in 3 ml acetic acid, was added iron (70 mg, 1.2 mmol). The reaction mixture was heated to 40° C. under argon for 2 hours. The mixture was cooled to ambient temperature and filtered through celite and the filtrate was concentrated. The resulting solid was dissolved in ethyl acetate. The organic layer was washed with saturated NaHCO3, dried over MgSO4, filtered and the filtrate was concentrated in vacuo to yield crude product that was used in Example 6c.

reactant | benzyl-(4-bromo-2-nitro-phenyl)-amine | 0.9 mmol, 276 mg | C(C1=CC=CC=C1)NC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C13H11BrN2O2
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 1.2 mmol, 70 mg | [Fe] | Fe
product | N1-Benzyl-4-bromo-benzene-1,2-diamine | C(C1=CC=CC=C1)NC=1C(=CC(=CC1)Br)N | C13H13BrN2
